US07385059B2
To a solution of benzaldehyde (2 g; 18.9 mmol) and malononitrile (1.37 g; 20.7 mmol) in ethanol (40 ml) was added 5 drops of piperidine and the mixture was heated at reflux overnight. The reaction was cooled, evaporated then purified by flash column chromatography eluting with 1:9 ethyl acetate/hexane and the product containing fractions combined and evaporated to give 930 mg of 2-benzylidene-but-3-yne nitrile.

reactant | benzaldehyde | 18.9 mmol, 2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | malononitrile | 20.7 mmol, 1.37 g | C(CC#N)#N | C3H2N2
reactant | ethanol | 40 ml | C(C)O | C2H6O
catalyst | piperidine | 5 drops | N1CCCCC1 | C5H11N
product | 2-benzylidene-but-3-yne nitrile | 930 mg | C(C1=CC=CC=C1)=C(C#N)C#C | C11H7N
